US06919356B2
Part A: Preparation of 4-oxopiperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester
A slurry of 4-oxopiperidine-3-carboxylic acid methyl ester (24.85 g, 128 mmol) in tetrahydrofuran (165 mL) was treated at room temperature with triethylamine (36.5 mL, di-tert-butyl dicarbonate (30.8 g, 141 mmol) over a period of about 3 minutes. The mixture was stirred for 23.5 hours, then was filtered and the filtrate was concentrated under vacuum. The solid and the solid residue from the filtrate were combined and dissolved in water and ethyl acetate. The layers were separated and the organic phase was washed again with water, followed by extraction of the combined aqueous phases with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated to provide a viscous yellow oil (34.8 g, quantitative yield) which was enolic by NMR. 1H NMR (300 MHz, CDCl3) δ11.99 (s, 1H), 4.07 (bs, 2H), 3.79 (s, 3H), 3.58 (t, J=6 Hz, 2H), 2.39 (bt, J=6 Hz, 2H), 1.49 (s, 9H).

reactant | 4-oxopiperidine-3-carboxylic acid methyl ester | 128 mmol, 24.85 g | COC(=O)C1CNCCC1=O | C7H11NO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 141 mmol, 30.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 165 mL | O1CCCC1 | C4H8O
product | 4-oxopiperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 34.8 g, quantitative yield | COC(=O)C1CN(CCC1=O)C(=O)OC(C)(C)C | C12H19NO5
